US06900216B2
To a suspension of magnesium turnings (0.41 g) in tetrahydrofuran (5 ml) under nitrogen were added 1 ml of a solution of 4-bromobenzo[b]thiophene (3.45 g, prepared in a manner similar to that described in Bull. Soc. Chim. Fr., 1966, 11, 3667) in tetrahydrofuran (15 ml) and a crystal of iodine. The mixture was stirred at 50-60° C. and once the reaction had initiated the rest of the bromobenzo[b]thiophene solution was added dropwise at 50-60° C. over 10 minutes. The mixture was stirred for a further 0.5 hour at 50-60° C. then cooled to 0° C. A solution of 2-chloro-N-methoxy-N-methylacetamide (2.2 g) in tetrahydrofuran (20 ml) was added dropwise at 0-5° C. over 15 minutes and the mixture was stirred at 0-5° C. for 1 hour. Saturated aqueous ammonium chloride solution (25 ml) was added, the mixture was stirred at ambient temperature for 10 minutes, then the aqueous layer was separated and shaken with ethyl acetate (50 ml). The combined organic phases were dried (MgSO4) and the solvents were removed in vacuo. The residue was purified by flash chromatography over silica using a 19:1 mixture of petroleum ether (b.p. 60-80° C.) and ethyl acetate as eluant. Appropriate fractions were combined and the solvents removed in vacuo to give 1-(benzo[b]thiophen-4-yl)-2-chloroethan-1-one (1.15 g) as a pale yellow oil which was used without further purification.

reactant | magnesium | 0.41 g | [Mg] | Mg
reactant | 4-bromobenzo[b]thiophene | BrC1=CC=CC=2SC=CC21 | C8H5BrS
reactant | iodine | II | I2
reactant | bromobenzo[b]thiophene | BrC1=CC2=C(S1)C=CC=C2 | C8H5BrS
reactant | 2-chloro-N-methoxy-N-methylacetamide | 2.2 g | ClCC(=O)N(C)OC | C4H8ClNO2
reactant | ammonium chloride | 25 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(benzo[b]thiophen-4-yl)-2-chloroethan-1-one | 1.15 g | S1C2=C(C=C1)C(=CC=C2)C(CCl)=O | C10H7ClOS
